US06423689B1
(S)-[2-(4-(2,6-dichloro-benzyloxy)-phenyl)-1-tert-butylcarbamoyl-ethyl]-carbamic acid tert-butyl ester
A solution of BOC-O-(2,6-dichlorobenzyl)-L-tyrosine (Bachem, 2.00 g, 4.54 mmol) in 20 mL of DMF and iPr2NEt (1.6 mL) was cooled to 0° C. and treated with HBTU (1.72 g, 4.54 mmol). The resulting solution was stirred at 0° C. for 30 minutes and treated with tert-butyl amine (0.48 mL, 4.54 mmol). The resulting solution was stirred overnight. The reaction mixture was poured into ether (100 mL) and washed sequentially with saturated aqueous NaHCO3 solution (20 mL) and brine (4×20 mL). The organic phase was collected and dried (MgSO4) and concentrated. The crude reaction product was purified by chromatography (silica gel, 2:1 heptane/EtOAc). The solid obtained was crystallized from hot heptane, collected by suction filtration and dried to give the title compound as a white solid (1.56 g, 69%), mp=82-86° C.

reactant | BOC-O-(2,6-dichlorobenzyl)-L-tyrosine | 4.54 mmol, 2.00 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)C(=O)O | C21H23Cl2NO5
reactant | HBTU | 4.54 mmol, 1.72 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl amine | 4.54 mmol, 0.48 mL | C(C)(C)(C)N | C4H11N
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | iPr2NEt | 1.6 mL | CCN(C(C)C)C(C)C | C8H19N
product | (S)-[2-(4-(2,6-dichloro-benzyloxy)-phenyl)-1-tert-butylcarbamoyl-ethyl]-carbamic acid tert-butyl ester | 1.56 g, 69% | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)C(NC(C)(C)C)=O)=O | C25H32Cl2N2O4
